US03940458
N,N-Dimethyl-3,3-dichloro-2-oxobutyramide
The procedure of Example 1 was followed using 32g (0.2 mole) of 2,2-dichloropropionyl chloride and 44g (0.6 mole) of dimethylformamide and 20g (0.2 mole) of triethylamine. Obtained following distillation was 12g of pure N,N-dimethyl-3,3-dichloro-2-oxobutyramide as a clear, colorless liquid: Bp: 68°-70° (0.2mm); ir (λmax, film) 5.7 (s), 6.1 (s), 7.1 (s), 9.3 (s), 9.9 (s), 12.6 (s) microns.

reactant | 2,2-dichloropropionyl chloride | ClC(C(=O)Cl)(C)Cl | C3H3Cl3O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N,N-Dimethyl-3,3-dichloro-2-oxobutyramide | CN(C(C(C(C)(Cl)Cl)=O)=O)C | C6H9Cl2NO2
